US08871753B2
Step C: N-[2-(3-Aminophenoxy)ethyl]-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine
A solution of N-(2,5-dichloropyrimidin-4-yl)-N′-[2-(3-nitrophenoxy)ethyl]benzene-1,3-diamine bis(trifluoroacetate) (100 mg, 0.15 mmol) in methanol (0.63 mL) was treated with acetic acid (0.25 mL, 4.4 mmol), water (0.13 mL, 7.0 mmol), and iron (43 mg, 0.77 mmol) and stirred at 20° C. for 16 h. The reaction mixture was diluted with methanol and treated with celite. The suspension was filtered over a pad of celite and washed with methanol. The filtrate was concentrated to give the desired product (63 mg, 94%) as a crude residue that was used without further purification.

reactant | N-(2,5-dichloropyrimidin-4-yl)-N′-[2-(3-nitrophenoxy)ethyl]benzene-1,3-diamine bis(trifluoroacetate) | 0.15 mmol, 100 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)NCCOC1=CC(=CC=C1)[N+](=O)[O-])Cl
reactant | acetic acid | 4.4 mmol, 0.25 mL | C(C)(=O)O | C2H4O2
reactant | water | 7.0 mmol, 0.13 mL | O | H2O
solvent | methanol | 0.63 mL | CO | CH4O
catalyst | iron | 0.77 mmol, 43 mg | [Fe] | Fe
product | N-[2-(3-Aminophenoxy)ethyl]-N′-(2,5-dichloropyrimidin-4-yl)benzene-1,3-diamine | 63 mg, 94% | NC=1C=C(OCCNC2=CC(=CC=C2)NC2=NC(=NC=C2Cl)Cl)C=CC1 | C18H17Cl2N5O
